US05990101
b) 3-(N-aminosulfonyl-N-methylamino)methylimidazo[5,1-b]thiazole
A 47 mg potion of 3-(N-methylamino)methylimidazo[5,1-b]thiazole was dissolved in 1 ml of DMF, and 0.305 ml of N,N-diisopropylethylamine and 100 mg of sulfamoyl chloride were further added at -45° C., followed by stirring for 8 hours, while the solution was heated up to room temperature. Then, the reaction solution was concentrated under reduced pressure, and 10 ml of water and an aqueous sodium hydrogencarbonate solution were then added to adjust the solution to pH 9.0. Afterward, extraction was carried out four times with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the solvent was evaporated under reduced pressure. The resulting residue was purified by a silica gel column chromatograph to obtain 37.4 mg of the title compound.

reactant | 3-(N-methylamino)methylimidazo[5,1-b]thiazole | CNCC=1N2C(SC1)=CN=C2 | C7H9N3S
reactant | N,N-diisopropylethylamine | 0.305 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sulfamoyl chloride | 100 mg | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3-(N-aminosulfonyl-N-methylamino)methylimidazo[5,1-b]thiazole | 37.4 mg | NS(=O)(=O)N(C)CC=1N2C(SC1)=CN=C2 | C7H10N4O2S2
